US08748632B2
AlMe3 (10 mmol, 2.0 M in toluene) was added dropwise to a cooled (0° C.) suspension of cyclopentylamine (0.85 g, 10 mmol) in CH2Cl2 (30 mL). When the addition was complete, the reaction mixture was allowed to warm to room temperature and stirring was continued for 30 minutes until the gas evolution ceased. Then, a solution of methyl 2-mercapto-4-methoxy-benzoate (0.990 g, 5 mmol) was added. After stirring at 60° C. for 12 h, the mixture was cooled, and carefully quenched with 5% aq HCl (20 mL). The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (3×15 mL). The combined organic extracts were washed with a saturated aqueous solution of NaHCO3 (15 mL) and brine. The organic phase was dried using MgSO4 and evaporated, filtered and the solvent was evaporated in vacuo. The resulting residue was purified by crystallization from Et2O to afford N-cyclopentyl-2-mercapto-4-methoxybenzamide as a tan solid (1.18 g, 94%). 1H NMR (DMSO-d6, 300 MHz): δ 8.26 (s, 1H), 7.51 (d, 1H, J=8.7 Hz), 7.01 (s, 1H), 6.72 (d, 1H, J=8. Hz), 5.62 (s, 1H), 4.16-4.14 (m, 1H), 3.78 (s, 3H), 1.99-1.80 (m, 2H), 1.79-1.68 (m, 2H), 1.66-1.53 (m, 4H). LC-MS (ESI) Calcd for C13H17NO2S [M+H]+: 252.09. Found: 251.95.

reactant | AlMe3 | 10 mmol, 2.0 M | C[Al](C)C
reactant | cyclopentylamine | 10 mmol, 0.85 g | C1(CCCC1)N | C5H11N
reactant | methyl 2-mercapto-4-methoxy-benzoate | 5 mmol, 0.990 g | SC1=C(C(=O)OC)C=CC(=C1)OC | C9H10O3S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-cyclopentyl-2-mercapto-4-methoxybenzamide | 1.18 g, 94% | C1(CCCC1)NC(C1=C(C=C(C=C1)OC)S)=O | C13H17NO2S
